US04198512
By following the same procedure as in Example 1 using 0.6 g. of 3-chloro-2-ethyl-1-oxo-1,2-dihydroisoquinoline and 0.8 g. of an aqueous solution of 20% sodium methylsulfide, 0.31 g. of 2-ethyl-3-methylthio-1-oxo-1,2-dihydroisoquinoline was obtained (recrystallized from cyclohexane).

reactant | 3-chloro-2-ethyl-1-oxo-1,2-dihydroisoquinoline | ClC=1N(C(C2=CC=CC=C2C1)=O)CC | C11H10ClNO
reactant | sodium methylsulfide | CSC.[Na]
product | 2-ethyl-3-methylthio-1-oxo-1,2-dihydroisoquinoline | C(C)N1C(C2=CC=CC=C2C=C1SC)=O | C12H13NOS
